US07825253B2
N5-(3-Methoxy-benzyl)-N2-(2-methoxy-benzyl)-quinoline-2,5-diamine
The title compound, MS: m/e=400.3 (M+H+), was prepared in accordance with the general method of example 1 from 5-bromo-2-chloroquinoline, 2-methoxybenzylamine and 3-methoxybenzylamine.

reactant | 5-bromo-2-chloroquinoline | BrC1=C2C=CC(=NC2=CC=C1)Cl | C9H5BrClN
reactant | 2-methoxybenzylamine | COC1=C(CN)C=CC=C1 | C8H11NO
reactant | 3-methoxybenzylamine | COC=1C=C(CN)C=CC1 | C8H11NO
product | N5-(3-Methoxy-benzyl)-N2-(2-methoxy-benzyl)-quinoline-2,5-diamine | COC=1C=C(CNC=2C=3C=CC(=NC3C=CC2)NCC2=C(C=CC=C2)OC)C=CC1 | C25H25N3O2
